* c:\users\santanu\desktop\esim-workspace\project_backup\cla_adder\cla_adder.cir

.include XOR_new.sub
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ santanu_cla_adder
x3 net-_u2-pad4_ net-_u2-pad8_ net-_x1-pad3_ net-_u4-pad1_ XOR_new
x4 net-_u2-pad3_ net-_u2-pad7_ net-_x1-pad3_ net-_u4-pad2_ XOR_new
x2 net-_u2-pad2_ net-_u2-pad6_ net-_x1-pad3_ net-_u4-pad3_ XOR_new
x1 net-_u2-pad1_ net-_u2-pad5_ net-_x1-pad3_ net-_u4-pad4_ XOR_new
* u4  net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ net-_u4-pad4_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ adc_bridge_4
* u5  net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ result_msb result_3 result_2 result_1 result_lsb dac_bridge_5
v1 net-_x1-pad3_ gnd  dc 1.8
* s c m o d e
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ adc_bridge_8
* u3  net-_u3-pad1_ net-_u1-pad9_ adc_bridge_1
* u6  result_msb plot_v1
* u7  result_3 plot_v1
* u8  result_2 plot_v1
* u9  result_1 plot_v1
* u10  result_lsb plot_v1
v2 net-_u2-pad1_ gnd  dc 1.8
v3 net-_u2-pad2_ gnd  dc 1.8
v4 net-_u2-pad3_ gnd  dc 0
v5 net-_u2-pad4_ gnd  dc 0
v7 net-_u2-pad5_ gnd  dc 1.8
v8 net-_u2-pad6_ gnd  dc 1.8
v9 net-_u2-pad7_ gnd  dc 0
v10 net-_u2-pad8_ gnd  dc 1.8
v6 net-_u3-pad1_ gnd  dc 1.8
a1 [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ ] [net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ ] [net-_u1-pad9_ ] [net-_u1-pad10_ ] [net-_u1-pad11_ ] [net-_u1-pad12_ ] [net-_u1-pad13_ ] [net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ ] u1
a2 [net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ net-_u4-pad4_ ] [net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ ] u4
a3 [net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ ] [result_msb result_3 result_2 result_1 result_lsb ] u5
a4 [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ ] [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ ] u2
a5 [net-_u3-pad1_ ] [net-_u1-pad9_ ] u3
* Schematic Name:                             santanu_cla_adder, NgSpice Name: santanu_cla_adder
.model u1 santanu_cla_adder(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_4, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_5, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 0.00001e-00 0.01e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(result_msb)
plot v(result_3)
plot v(result_2)
plot v(result_1)
plot v(result_lsb)
.endc
.end
