* c:\fossee\esim\library\subcircuitlibrary\xor_new\xor_new.cir

xsc4 net-_sc10-pad2_ net-_sc3-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 
xsc3 net-_sc10-pad2_ net-_sc3-pad2_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 
xsc2 net-_sc1-pad1_ net-_sc1-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 
xsc1 net-_sc1-pad1_ net-_sc1-pad2_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 
* u1  net-_sc1-pad2_ net-_sc3-pad2_ net-_sc1-pad3_ net-_sc10-pad1_ port
xsc5 net-_sc5-pad1_ net-_sc3-pad2_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 
xsc6 net-_sc10-pad1_ net-_sc1-pad1_ net-_sc5-pad1_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 
xsc9 net-_sc10-pad3_ net-_sc1-pad2_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 
xsc10 net-_sc10-pad1_ net-_sc10-pad2_ net-_sc10-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 
xsc7 net-_sc10-pad1_ net-_sc1-pad2_ net-_sc7-pad3_ gnd sky130_fd_pr__nfet_01v8 
xsc11 net-_sc10-pad1_ net-_sc10-pad2_ net-_sc11-pad3_ gnd sky130_fd_pr__nfet_01v8 
xsc8 net-_sc7-pad3_ net-_sc3-pad2_ gnd gnd sky130_fd_pr__nfet_01v8 
xsc12 net-_sc11-pad3_ net-_sc1-pad1_ gnd gnd sky130_fd_pr__nfet_01v8 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
